US09079853B2
5-methyl-1-(4-methylpentyl)indoline-2,3-dione
This compound was prepared in a similar method as 1-propylindoline-2,3-dione by reacting commercially available 5-methyl isatin (purchase from Fisher Scientific) with commercially available 1-bromo-5-methylpentane (purchase from Fisher Scientific). 1H NMR δ 7.42 (s, 1H), 7.38 (ddd, 1H), 6.79 (d, 1H), 3.68 (t, 2H), 3.34 (s, 3H), 1.69 (m, 2H), 1.60 (m, 1H), 1.27 (m, 2H), 0.88 (d, 6H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-methyl isatin | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | 1-bromo-5-methylpentane | BrCCCCCC | C6H13Br
product | 5-methyl-1-(4-methylpentyl)indoline-2,3-dione | CC=1C=C2C(C(N(C2=CC1)CCCC(C)C)=O)=O | C15H19NO2
